US04997836
A mixture of N,N-dimethyl 1-tert-butoxycarbonyl-4(3,4,5-trimethoxybenzoyl)piperazine-2-carboxamide (2.0 g) and 3N HCl - ethyl acetate (20 ml) is stirred for 30 minutes at room temperature. The reaction mixture is concentrated, and the concentrate is poured into a saturated aqueous solution of potassium carbonate, followed by extraction with dichloromethane. The organic layer is dried and concentrated to afford N,N-dimethyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxamide (1.5 g) as colorless crystals, m.p. 167-168° C.

reactant | N,N-dimethyl 1-tert-butoxycarbonyl-4(3,4,5-trimethoxybenzoyl)piperazine-2-carboxamide | 2.0 g | CN(C(=O)C1N(CCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OC(C)(C)C)C | C22H33N3O7
solvent | HCl ethyl acetate | 3N, 20 ml | Cl.C(C)(=O)OCC
product | N,N-dimethyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxamide | 1.5 g | CN(C(=O)C1NCCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C | C17H25N3O5
